US06610711B2
3-(4-Piperidinyl)phenol
4-(3-(1-Methylethoxy)phenyl)-1-piperidine-carboxylic acid phenyl ester (Preparation 46, 1.7 g, 5.01 mmol) was heated under reflux in 47% aqueous hydrobromic acid:glacial acetic acid (1:1, 20 ml) for 16 h. The solution was allowed to cool to room temperature and water (10 ml) was added. The solution was extracted with methyl tert-butyl ether (3×10 ml) to remove phenol as a by-product. The pH was adjusted to 10.3-10.5 with 15% w:v aqueous sodium hydroxide solution and the reaction mixture was left at room temperature for 2 h to precipitate the product. After cooling to 0° C. the precipitate was filtered and washed with cold water (5 ml) to give the title compound as a solid (380 mg, 43%).

reactant | 4-(3-(1-Methylethoxy)phenyl)-1-piperidine-carboxylic acid phenyl ester | 5.01 mmol, 1.7 g | C1(=CC=CC=C1)OC(=O)N1CCC(CC1)C1=CC(=CC=C1)OC(C)C | C21H25NO3
reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
reactant | water | 10 ml | O | H2O
solvent | hydrobromic acid | Br | BrH
product | 3-(4-Piperidinyl)phenol | 380 mg, 43% | N1CCC(CC1)C=1C=C(C=CC1)O | C11H15NO
